US08859591B2
To a solution of 1-(6-chloropyridin-3-yl)butan-1-ol (210 mg, 1.13 mmol) in 10 mL dichloromethane was added 2 g of silica gel, followed by pyridinium chlorochromate (488 mg, 2.26 mmol) The mixture was stirred at room temperature 5 h. The mixture was filtered through a plug of silica gel, eluting with 100 mL dichloromethane. The eluent was concentrated to give 1-(6-chloropyridin-3-yl)butan-1-one (210 mg). 1H NMR (400 MHz, CDCl3) δ 8.88-8.96 (m, 1H), 8.14-8.20 (m, 1H), 7.42 (d, J=8.4 Hz, 1H), 2.92 (t, J=7.2 Hz, 2H), 1.70-1.82 (m, 2H), 0.99 (t, J=7.4 Hz, 3H).

reactant | 1-(6-chloropyridin-3-yl)butan-1-ol | 1.13 mmol, 210 mg | ClC1=CC=C(C=N1)C(CCC)O | C9H12ClNO
reactant | pyridinium chlorochromate | 2.26 mmol, 488 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(6-chloropyridin-3-yl)butan-1-one | 210 mg | ClC1=CC=C(C=N1)C(CCC)=O | C9H10ClNO
